US05917038
3-(2-Thienyl)propiolamide
According to preparation 4, propiolamide (1.68 g, 24.45 mmol) was coupled with 2-iodothiophene (3.2 g, 15.67 mmol) to provide 1.29 g (55%) of product. NMR.

reactant | propiolamide | 24.45 mmol, 1.68 g | C(C#C)(=O)N | C3H3NO
reactant | 2-iodothiophene | 15.67 mmol, 3.2 g | IC=1SC=CC1 | C4H3IS
product | 3-(2-Thienyl)propiolamide | 1.29 g, 55% | S1C(=CC=C1)C#CC(=O)N | C7H5NOS
